US05344843
To a solution of 4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-ol formate (2 g) in ethanol (5 mL) was added a 10% solution of potassium hydroxide in ethanol (10 mL) and the reaction mixture was stirred at room temperature for 1 hour. The reaction was concentrated in vacuo, and the residue was partitioned between dichloromethane (20 mL) and 1N hydrochloric acid (20 mL). The separated aqueous layer was extracted with dichloromethane (2×20 mL), then the combined organic layers were washed with water, dried (MgSO4) and evaporated to furnish 1.9 g of 4'-fluoro-3-(1-methylethyl) [1,1'-biphenyl]-2-ol as a oil which solidified on standing. A small sample was sublimed to give the analytical specimen, mp 41°-43° C.

reactant | 4'-fluoro-3-(1-methylethyl)[1,1'-biphenyl]-2-ol formate | 2 g | C(=O)OC=1C(=CC=CC1C(C)C)C1=CC=C(C=C1)F | C16H15FO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4'-fluoro-3-(1-methylethyl) [1,1'-biphenyl]-2-ol | 1.9 g | FC1=CC=C(C=C1)C=1C(=C(C=CC1)C(C)C)O | C15H15FO
